US05521147
A stirred solution of 30.0 grams (0.192 mole) of 5-chloro-2-hydroxy-benzaldehyde, 31.4 grams (0.230 mole) ethyl 2-chloropropionate, and 31.8 grams (0.230 mole) of potassium carbonate in 200 mL of N,N-dimethylformamide was heated at 60°-70° C. for about 18 hours. The reaction mixture was cooled, diluted with 200 mL of aqueous 10% lithium chloride solution, and then extracted with two portions of ethyl acetate. The combined extracts were washed with 100 mL of aqueous 10% lithium chloride solution and dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residual oil. Infrared spectroscopy indicated that the residual oil was an intermediate product that had not closed to form the benzofuran ring. A small sample (0.6 gram) was removed for other experiments. The remainder of the residual oil was dissolved in 100 mL of N,N-dimethylformamide, and 26.5 grams (0.182 mole) of potassium carbonate was added. The stirred mixture was warmed to 70 °C., where it stirred for about 18 hours. The reaction mixture was processed as described above, yielding about 45 grams of crude product. The product was subjected to column chromatography on silica gel, with 1.5:8.5 ethyl acetate:heptane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 28.3 grams of 5-chloro-2-ethoxycarbonyl-2,3-dihydro-3-hydroxy-2-methylbenzofuran. The NMR spectrum was consistent with the proposed structure.

reactant | 5-chloro-2-hydroxy-benzaldehyde | 0.192 mole, 30.0 grams | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | ethyl 2-chloropropionate | 0.230 mole, 31.4 grams | ClC(C(=O)OCC)C | C5H9ClO2
reactant | potassium carbonate | 0.230 mole, 31.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.182 mole, 26.5 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | lithium chloride | [Cl-].[Li+]
solvent | heptane | CCCCCCC | C7H16
product | 5-chloro-2-ethoxycarbonyl-2,3-dihydro-3-hydroxy-2-methylbenzofuran | 28.3 grams | ClC=1C=CC2=C(C(C(O2)(C)C(=O)OCC)O)C1 | C12H13ClO4
